US08030322B2
Preparation 18: 5-chloro-6-methoxy-2,3-dihydrospiro[indene-1,3′-pyrrolidine]-2′,5′-dione (Prep18)
To a solution of 5-chloro-1-(cyanomethyl)-6-methoxy-2,3-dihydro-1H-indene-1-carbonitrile (Prep17, 520 mg, 2.11 mmol) in AcOH (5.2 ml), H2SO4 (0.364 ml) was added. The mixture was stirred for 15 min at 200° C. Water was added and the mixture extracted with EA twice, solvent was evaporated, dried over Na2SO4, concentrated to give the title compound that was used in the next step without further purification. (540 mg, y=96%).

reactant | 5-chloro-1-(cyanomethyl)-6-methoxy-2,3-dihydro-1H-indene-1-carbonitrile | 2.11 mmol, 520 mg | ClC=1C=C2CCC(C2=CC1OC)(C#N)CC#N | C13H11ClN2O
reactant | Water | O | H2O
reactant | AcOH | 5.2 ml | CC(=O)O | C2H4O2
solvent | H2SO4 | 0.364 ml | OS(=O)(=O)O | H2O4S
product | 5-chloro-6-methoxy-2,3-dihydrospiro[indene-1,3′-pyrrolidine]-2′,5′-dione | ClC=1C=C2CCC3(C(NC(C3)=O)=O)C2=CC1OC | C13H12ClNO3
